US08389511B2
tert-Butyl (3R)-3-(isopropyl{[7-methoxy-4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate
To tert-Butyl (3R)-3-[{[7-bromo-4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (500 mg) were added CuBr (59 mg), NaOMe (1M methanol solution) (16.4 ml) and DMF (5.5 ml), and the mixture was stirred at 100° C. for 15 hours. After the reaction was complete, water was added to the reaction solution, and the mixture was extracted with ethyl acetate solution. The obtained ethyl acetate solution was washed with water and a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/2) to give the title compound (240 mg) as a colorless liquid.

reactant | tert-Butyl (3R)-3-[{[7-bromo-4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 500 mg | BrC1=CC2=C(N(C(C(O2)(C)C)=O)CCCCOC)C=C1C(=O)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C)C | C29H44BrN3O6
reactant | NaOMe | 1M, 16.4 ml | C[O-].[Na+]
reactant | DMF | 5.5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-Butyl (3R)-3-(isopropyl{[7-methoxy-4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate | 240 mg | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(N(C(C(O2)(C)C)=O)CCCCOC)C1)OC | C30H47N3O7
